US05162325
Step A: 2-Cyano-3-(4-tolyl)pyridine
To a mixture of p-tolylmagnesium bromide (9.3 mL of a 1M solution in Et2O, 9.28 mmol) in THF (17 mL) at -78° C. was added ZnCl2 (9.3 mL of a 1M solution in Et2O, 9.28 mmol). The resulting slurry was warmed to rt for 20 min then cooled to 0° C. Bis-(triphenylphosphine)nickle(II) chloride (178 mg, 0.27 mmol) and 3-bromo-2-cyanopyridine (1.0 g, 5.5 mmol); (prepared as reported: Chem. Pharm Bull., 1985, vol. 33, p 565) were added in one portion. After 1 h, saturated aqueous NH4Cl (50 mL) was added and the mixture was extracted with EtOAc (2×50 mL). Purification by flash chromatography (40% EtOAc/hexanes) gave the above titled compound as a white solid.

reactant | p-tolylmagnesium bromide | C1(=CC=C(C=C1)[Mg]Br)C
reactant | 3-bromo-2-cyanopyridine | 5.5 mmol, 1.0 g | BrC=1C(=NC=CC1)C#N | C6H3BrN2
reactant | NH4Cl | 50 mL | [NH4+].[Cl-]
solvent | Et2O | CCOCC | C4H10O
solvent | THF | 17 mL | C1CCOC1 | C4H8O
catalyst | ZnCl2 | [Cl-].[Cl-].[Zn+2]
catalyst | Bis-(triphenylphosphine)nickle(II) chloride | 0.27 mmol, 178 mg | Cl[Ni]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-Cyano-3-(4-tolyl)pyridine | C(#N)C1=NC=CC=C1C1=CC=C(C=C1)C | C13H10N2
